datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)C[NH+:21](C(C)C)[H:20].COc1cc(CN)ccc1[O-:10]>>CC(C)C[NH:21]C(C)C.COc1cc(CN)ccc1[O:10][H:20] 10=20;20,21=21",
"[H:20][OH:21].C1[C@@H](N2[C-:10]=[N+](N=C2CO1)C3=CC=CC=C3)CC4=CC=CC=C4>>[H:20][C:10]1=[N+](N=C2N1[C@H](COC2)CC3=CC=CC=C3)C4=CC=CC=C4.[OH-:21] 10=20;20,21=21",
"CCC(=O)N[O:21][H:20].CC[N:10](CC)CCCNS(=O)(=O)c1ccc(OC)c(OC)c1OC>>CCC(=O)N[O-:21].CC[N+:10](CC)(CCCNS(=O)(=O)c1ccc(OC)c(OC)c1OC)[H:20] 10=20;20,21=21",
"CN1C=N/C(=[O+:21]\[H:20])C(c2ccccc2)=C1.Clc1ccc(-c2ncc(-c3ccc([NH2:10])cc3)o2)cc1>>CN1C=NC(=[O:21])C(c2ccccc2)=C1.Clc1ccc(-c2ncc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1 10=20;20,21=21",
"C[N:10](C)CCCN.O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O:21][H:20]>>C[N+:10](C)(CCCN)[H:20].O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"C#CCCC[N+:21](C)(C)[H:20].CC(C)C1CC(CC(=O)[O-:10])[NH2+]C1C(=O)[O-]>>C#CCCC[N:21](C)C.CC(C)C1CC(CC(=O)[O:10][H:20])[NH2+]C1C(=O)[O-] 10=20;20,21=21",
"CCc1ccccc1[NH2+:21][H:20].Cc1ccc(C[NH2:10])cc1N>>CCc1ccccc1[NH2:21].Cc1ccc(C[NH2+:10][H:20])cc1N 10=20;20,21=21",
"CC(=NO)/C(CN(C)C)=N\[O-:10].CN(C)c1cccc2c(S(=O)(=O)[N-]CC[N+:21](C)(C)[H:20])cccc12>>CC(=NO)/C(CN(C)C)=N\[O:10][H:20].CN(C)c1cccc2c(S(=O)(=O)[N-]CC[N:21](C)C)cccc12 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[NH-:10])cc1.CCn1nnnc1[N:21]([N+](=O)[O-])[H:20]>>CC(=O)Nc1ccc(S(=O)(=O)[NH:10][H:20])cc1.CCn1nnnc1[N-:21][N+](=O)[O-] 10=20;20,21=21",
"C[NH2+]CCC[NH2:10].O=C(C1COCCO1)[O:21][H:20]>>C[NH2+]CCC[NH2+:10][H:20].O=C(C1COCCO1)[O-:21] 10=20;20,21=21",
"O=C(C[C@]1(O)C[C@@H]2C=C[C@H]1C2)[O-:10].Oc1ccc2c(c1)c[n+:21]([H:20])c1ccccc21>>O=C(C[C@]1(O)C[C@@H]2C=C[C@H]1C2)[O:10][H:20].Oc1ccc2c(c1)c[n:21]c1ccccc21 10=20;20,21=21",
"CCNC(=O)C1CCCC[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCNC(=O)C1CCCC[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[n+]1ccccc1/C=C/c1ccc([O-:10])cc1.Cc1[nH+]cc[n+:21]([H:20])c1C>>C[n+]1ccccc1/C=C/c1ccc([O:10][H:20])cc1.Cc1[nH+]cc[n:21]c1C 10=20;20,21=21",
"C=CCOc1ccc(C(=O)[O-:10])cc1.CN(C)C(=O)C[S:21][H:20]>>C=CCOc1ccc(C(=O)[O:10][H:20])cc1.CN(C)C(=O)C[S-:21] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1.ClCC[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1.ClCC[O:10][H:20] 10=20;20,21=21",
"CC/C(N=O)=N/[O:21][H:20].Cc1cc(Cl)cc(Cl)c1[O-:10]>>CC/C(N=O)=N/[O-:21].Cc1cc(Cl)cc(Cl)c1[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10]C(C)C.Nc1ccc(S(=O)(=O)[N:21](c2ccccc2)[H:20])cc1>>CC(C)[NH+:10](C(C)C)[H:20].Nc1ccc(S(=O)(=O)[N-:21]c2ccccc2)cc1 10=20;20,21=21",
"C/C(Nc1ccccc1)=[N:10]/c1ccccc1.CC1=C(CC(C)[NH+:21](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C>>C/C(Nc1ccccc1)=[N+:10](/c1ccccc1)[H:20].CC1=C(CC(C)[NH:21]CC(O)c2ccc(F)cc2)CCC1(C)C 10=20;20,21=21",
"C[NH:10]N.Nc1nnnn1CC(=O)[O:21][H:20]>>C[NH+:10](N)[H:20].Nc1nnnn1CC(=O)[O-:21] 10=20;20,21=21",
"C[N:10](C)CC(CSCc1ccccc1)SCc1ccccc1.O=C1N[C@@H](Cc2c[n+:21]([H:20])c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1>>C[N+:10](C)(CC(CSCc1ccccc1)SCc1ccccc1)[H:20].O=C1N[C@@H](Cc2c[n:21]c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1 10=20;20,21=21",
"O=S(=O)(c1ccc(O)cc1)[N-:10]c1ncc(Cl)cn1.c1ccc2c(c1)cc1ccccc1[n+:21]2[H:20]>>O=S(=O)(c1ccc(O)cc1)[N:10](c1ncc(Cl)cn1)[H:20].c1ccc2c(c1)cc1ccccc1[n:21]2 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2cc(N)ccc21.O[C@H]1[C@H](O)[C@@H](n2c[n:10]c3ccccc32)OC[C@H]1O>>Cn1c[n:21]c2cc(N)ccc21.O[C@H]1[C@H](O)[C@@H](n2c[n+:10]([H:20])c3ccccc32)OC[C@H]1O 10=20;20,21=21",
"CC(C)(C(N)=O)S(=O)(=O)[NH:21][H:20].[S-]CC[NH:10]Cc1ccccc1>>CC(C)(C(N)=O)S(=O)(=O)[NH-:21].[S-]CC[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"Cc1cc(C)c(C(C(=O)[O-:10])c2ccccc2)c(C)c1.Cc1ncnc2nc[n:21]([H:20])c12>>Cc1cc(C)c(C(C(=O)[O:10][H:20])c2ccccc2)c(C)c1.Cc1ncnc2nc[n-:21]c12 10=20;20,21=21",
"C[n+]1nc([O:21][H:20])ccc1[O-].c1cc2cn[nH]c2cc1[NH2:10]>>C[n+]1nc([O-:21])ccc1[O-].c1cc2cn[nH]c2cc1[NH2+:10][H:20] 10=20;20,21=21",
"CC1=C(CC(C)[NH+:21](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C.CCCC[NH+](CCCC)CC[S-:10]>>CC1=C(CC(C)[NH:21]CC(O)c2ccc(F)cc2)CCC1(C)C.CCCC[NH+](CCCC)CC[S:10][H:20] 10=20;20,21=21",
"COc1ccc([C@H]2C[C@@H]2C(=O)[O-:10])cc1.c1ccc(-n2cn[n+:21]([H:20])n2)cc1>>COc1ccc([C@H]2C[C@@H]2C(=O)[O:10][H:20])cc1.c1ccc(-n2cn[n:21]n2)cc1 10=20;20,21=21",
"C[N+](C)(C)c1ccc([N:10](C)C)cc1.Clc1cccc[n+:21]1[H:20]>>C[N+](C)(C)c1ccc([N+:10](C)(C)[H:20])cc1.Clc1cccc[n:21]1 10=20;20,21=21",
"CCNc1ncnc2c1cn[n-:10]2.C[Si](C)(C)CCC(=O)[O:21][H:20]>>CCNc1ncnc2c1cn[n:10]2[H:20].C[Si](C)(C)CCC(=O)[O-:21] 10=20;20,21=21",
"CC1(C)SC[NH+:21]([H:20])C1C(=O)[O-].CSC(c1ccccc1)=[NH:10]>>CC1(C)SC[NH:21]C1C(=O)[O-].CSC(c1ccccc1)=[NH+:10][H:20] 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@@H]1C(=O)[O:21][H:20].Cc1ccc(S(=O)(=O)[N-:10]CCC(=[NH2+])N(C)C)cc1>>CC(=O)[C@@H]1C[C@@H]1C(=O)[O-:21].Cc1ccc(S(=O)(=O)[N:10](CCC(=[NH2+])N(C)C)[H:20])cc1 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCC1.C[NH+](C)CCOCC[N:10](C)C>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCC1.C[NH+](C)CCOCC[N+:10](C)(C)[H:20] 10=20;20,21=21",
